US07544693B2
To a solution of 4-chloronicotinic acid (7.03 g, 44.6 mmol) in 100 mL of hexamethylphosphoric triamide (HMPA) was added a solution of 5.5 N sodium hydroxide (13 mL) at 0° C. Then iodoethane (27.8 g, 179 mmol) was added into the reaction mixture at 0° C. over 1 h, and stirring was continued for a further 1 h at room temperature. The mixture was diluted with 250 mL of water, and then extracted three times with ether. The ethereal extracts were combined, washed three times with water, then dried (MgSO4), filtered, and the solvent was evaporated to give ethyl 4-chloronicotinate (6.21 g) as a brown oily residue, which was used for the next step without further purification.

reactant | 4-chloronicotinic acid | 44.6 mmol, 7.03 g | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | sodium hydroxide | 5.5 N, 13 mL | [OH-].[Na+]
reactant | iodoethane | 179 mmol, 27.8 g | ICC | C2H5I
solvent | hexamethylphosphoric triamide | 100 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | water | 250 mL | O | H2O
product | ethyl 4-chloronicotinate | 6.21 g | ClC1=CC=NC=C1C(=O)OCC | C8H8ClNO2
